US05686610
Ethyl 5-[(3-chloropropyl)sulfonamido]indole-2-carboxylate
Ethyl 5-aminoindole-2-carboxylate (2.0 g) and pyridine (0.82 ml) are dissolved in 15 ml of methylene chloride and 10 ml of THF. Then the reaction is cooled to 0° and 3-chloropropanesulfonyl chloride (1.25 ml) is added and the reaction is allowed to slowly warm to 20°-25° and stir for 16 hr. Then the reaction is diluted with chloroform, washed with saturated aqueous sodium bicarbonate and saline. The organic layers are dried over anhydrous sodium sulfate and concentrated under reduced pressure. The product is dissolved in ethyl acetate and filtered through a plug of silica gel and crystallized from methanol, mp 195°-196°.

reactant | Ethyl 5-aminoindole-2-carboxylate | 2.0 g | NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H12N2O2
reactant | pyridine | 0.82 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropanesulfonyl chloride | 1.25 ml | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 5-[(3-chloropropyl)sulfonamido]indole-2-carboxylate | ClCCCS(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C14H17ClN2O4S
